US06596738B1
Under N2, to a stirred solution of 1-[(R)-4-(6-aminoindol-1-yl)-1-(tert-butyldimethylsilyloxy)-2-butyl]imidazole-4-carboxamide (164 mg, 0.383 mmol) in dichloromethane (10 ml) was added hydrocinnamaldehyde (51 mg, 0.383 mmol) at room temperature. The mixture was stirred for 30 minutes. Sodium triacetoxyborohydride (114 mg, 0.536 mmol) was added to the mixture at room temperature and the resulting mixture was stirred for 5 hours. And then the reaction mixture was partitioned between dichloromethane and water. The organic layer was washed with brine, dried (sodium sulfate), and concentrated in vacuo. The residue was purified by silica gel (10 g) column chromatography eluted with chloroform/methanol (100:1 to 10:1) to give 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(6-(3-phenylpropylamino)indol-1-yl)-2-butyl]imidazole-4-carboxamide (52.6 mg, 25.2%).

reactant | 1-[(R)-4-(6-aminoindol-1-yl)-1-(tert-butyldimethylsilyloxy)-2-butyl]imidazole-4-carboxamide | 0.383 mmol, 164 mg | NC1=CC=C2C=CN(C2=C1)CC[C@H](CO[Si](C)(C)C(C)(C)C)N1C=NC(=C1)C(=O)N | C22H33N5O2Si
reactant | hydrocinnamaldehyde | 0.383 mmol, 51 mg | C(CCC1=CC=CC=C1)=O | C9H10O
reactant | Sodium triacetoxyborohydride | 0.536 mmol, 114 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(6-(3-phenylpropylamino)indol-1-yl)-2-butyl]imidazole-4-carboxamide | 52.6 mg, 25.2% | [Si](C)(C)(C(C)(C)C)OC[C@@H](CCN1C=CC2=CC=C(C=C12)NCCCC1=CC=CC=C1)N1C=NC(=C1)C(=O)N | C31H43N5O2Si
